US04352808
Add 3-bromo-7-chlorothiochroman-4-ol (5.27 gms., 18.8 mmols) and imidazole (12.8 gms., 188 mmols) to acetonitrile (100 ml.), and heat at reflux temperature for 4 hours. Pour the reaction mixture into water (500 ml.), and extract with chloroform (500 ml.). Wash the organic layer with water (500 ml.), dry the organic layer over anhydrous magnesium sulfate, filter and evaporate in vacuo. Triturate the resultant residue with anhydrous ether, filter and recrystallize from acetonitrile to give cis-6-chloro-2,3-dihydro-3-hydroxy-2-(1'-imidazolylmethyl)benzo(b)thiophene.

reactant | 3-bromo-7-chlorothiochroman-4-ol | 18.8 mmols, 5.27 gms | BrC1CSC2=CC(=CC=C2C1O)Cl | C9H8BrClOS
reactant | imidazole | 188 mmols, 12.8 gms | N1C=NC=C1 | C3H4N2
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | cis-6-chloro-2,3-dihydro-3-hydroxy-2-(1'-imidazolylmethyl)benzo(b)thiophene | ClC=1C=CC2=C(S[C@H]([C@H]2O)CC=2NC=CN2)C1 | C12H11ClN2OS
